US05780472
1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbony]-4-(2-phenoxyphenyl)piperazine
Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate and 1-(2-phenoxyphenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound.

reactant | Phenyl-N-(5-ethyl-2-methoxy-6-methylpyridin-3-yl)carbamate | C1(=CC=CC=C1)OC(NC=1C(=NC(=C(C1)CC)C)OC)=O | C16H18N2O3
reactant | 1-(2-phenoxyphenyl)piperazine | O(C1=CC=CC=C1)C1=C(C=CC=C1)N1CCNCC1 | C16H18N2O
product | 1-[(5-ethyl-2-methoxy-6-methylpyridin-3-yl)aminocarbony]-4-(2-phenoxyphenyl)piperazine | yield: 69% | C(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC1=CC=CC=C1 | C26H30N4O3
